US06528504B2
(R)-5,11-Dihydro-5-[1-(4-methoxyphenethyl)pyrrolidine-3-yl]dibenzo[b,e][1,4]oxazepine Hydrochloride
2.0 ml of 4 M hydrochloric acid/dioxane was added to a solution of (R)-5,11-dihydro-5-[1-(4-methoxyphenethyl)pyrrolidine-3-yl]dibenzo[b,e][1,4]oxazepine (360 mg, 0.9 mmol) in dichloromethane (10 ml), and they were stirred for 1 hour. The solvent was evaporated under reduced pressure. The obtained residue was crystallized from ethanol to obtain the title compound in the form of a white solid (302 mg, 77%).

reactant | hydrochloric acid dioxane | 4 M, 2.0 ml | Cl.O1CCOCC1
reactant | (R)-5,11-dihydro-5-[1-(4-methoxyphenethyl)pyrrolidine-3-yl]dibenzo[b,e][1,4]oxazepine | 0.9 mmol, 360 mg | COC1=CC=C(CCN2C[C@@H](CC2)N2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1 | C26H28N2O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (R)-5,11-Dihydro-5-[1-(4-methoxyphenethyl)pyrrolidine-3-yl]dibenzo[b,e][1,4]oxazepine Hydrochloride | Cl.COC1=CC=C(CCN2C[C@@H](CC2)N2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1 | InChI=1S/C26H28N2O2.ClH/c1-29-23-12-10-20(11-13-23)14-16-27-17-15-22(18-27)28-24-7-3-2-6-21(24)19-30-26-9-5-4-8-25(26)28;/h2-13,22H,14-19H2,1H3;1H/t22-;/m1./s1
